US06645968B2
N-[1-(1H-1,2,3-benzotriazol-1-yl)-(methylsulfanyl)propyl]-4-chlorobenzamide
4-Chlorobenzamide, 3-methylthio-1-propanal, benzotriazole, and p-toluenesulfonic acid were processed as described in Example 53A to provide the desired product.

reactant | 4-Chlorobenzamide | ClC1=CC=C(C(=O)N)C=C1 | C7H6ClNO
reactant | 3-methylthio-1-propanal | CSCCC=O | C4H8OS
reactant | benzotriazole | N1N=NC2=C1C=CC=C2 | C6H5N3
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | N-[1-(1H-1,2,3-benzotriazol-1-yl)-(methylsulfanyl)propyl]-4-chlorobenzamide | N1(N=NC2=C1C=CC=C2)C(CCSC)NC(C2=CC=C(C=C2)Cl)=O | C17H17ClN4OS
